US04025630
5,5-Dimethyl-10-[4-(pyrrolidino)butyryloxy]-2-phenethyl-8-(4-chlorophenyl-1-methylbutyl)-1,2,3,4-tetrahydro-5H [1]benzopyrano[3,4-d]pyridine hydrochloride
5,5-Dimethyl-10-hydroxy-2-phenethyl-8-(4-chlorophenyl-1-methylbutyl)-1,2,3,4-tetrahydro-5H[1]benzopyrano [3,4-d]pyridine, γ-pyrrolidino-butyric acid hydrochloride and dicyclohexylcarbodiimide are reacted in equimolar amounts according to Example 7 to produce the desired product.

reactant | 5,5-Dimethyl-10-hydroxy-2-phenethyl-8-(4-chlorophenyl-1-methylbutyl)-1,2,3,4-tetrahydro-5H[1]benzopyrano [3,4-d]pyridine | CC1(OC2=C(C(=CC(=C2)C(CCC)(C)C2=CC=C(C=C2)Cl)O)C2=C1CCN(C2)CCC2=CC=CC=C2)C | C33H38ClNO2
reactant | γ-pyrrolidino-butyric acid hydrochloride | Cl.N1(CCCC1)CCCC(=O)O
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 5,5-Dimethyl-10-[4-(pyrrolidino)butyryloxy]-2-phenethyl-8-(4-chlorophenyl-1-methylbutyl)-1,2,3,4-tetrahydro-5H [1]benzopyrano[3,4-d]pyridine hydrochloride | Cl.CC1(OC2=C(C(=CC(=C2)C(CCC)(C)C2=CC=C(C=C2)Cl)OC(CCCN2CCCC2)=O)C2=C1CCN(C2)CCC2=CC=CC=C2)C | InChI=1S/C41H51ClN2O3.ClH/c1-5-21-41(4,31-15-17-33(42)18-16-31)32-27-36(46-38(45)14-11-24-43-22-9-10-23-43)39-34-29-44(25-19-30-12-7-6-8-13-30)26-20-35(34)40(2,3)47-37(39)28-32;/h6-8,12-13,15-18,27-28H,5,9-11,14,19-26,29H2,1-4H3;1H
